Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness/Hypotension
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old female with PMHx of dilated 
cardiomyopathy, DM, NASH, who presents from PCP with 
hypotension. Pt has felt week over the last couple of days. Pt 
was at the ___ on ___, when she was found to have a BP of 
80/50. Pt with no recent change in medications. Pt denies any 
fever, chills, cough, cp, sob, cp, abd pain, n/v, constipation 
and diarrhea. 

Of note, patient had recent admission for hyperglycemia, where 
she had an elevated lactate and hypotension.

In ED, initial VS: T 99.2 P 75 BP 80/52 (-> 111/63) R 18 O2 Sat 
98% RA. Pt was found to have yellow guaiac positive stool. CXR 
negative. UA negative. Labs showed lactate 2.4, Cr 1.2, AP 106. 
On bed side US pt IVC was not distended with some minor 
collaspe. Pt was given 1L IVF with improvement in BP. Pt was 
also given Vanc/Cefepime.

On the floor, patient appeared comfortable.  Denied any 
dizziness or discomfort.  
 
On ROS:
denies any fever, chills, cough, cp, sob, cp, abd pain, n/v, 
constipation and diarrhoea. 

 
Past Medical History:
1. Idiopathic dilated cardiomyopathy (recent EF 45%, up from  
 ___. Baseline LBBB.  
 2. Poorly controlled type 2 diabetes (recent A1c 13%)  
 3. NASH with stage 3 cirrhosis on biopsy in ___. Followed by 
Dr. ___ - recent US without evidence of HCC.  
 4. Morbid obesity.  
 5. Obstructive sleep apnea on CPAP at home.  
 6. Hypertension.  
 7. Hyperlipidemia.  
 8. Hypothyroidism  
 9. OCD, followed at ___  

 
Social History:
___
Family History:
Father had heart disease with question of an enlarged heart and 
sudden cardiac death at age ___. Mother with congestive heart 
failure, multiple aunts and uncles with coronary artery disease. 
 

 
Physical Exam:
EXAM ON ADMISSION:
Vitals: T:98 BP:124/65 P:67 R:20 O2:100 RA  
General: Alert, oriented, no acute distress, obese habitus  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Bibasilar crackles 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, distended consistent with obesity, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Left leg > right  
Neuro:  Cn II-XII intact.

EXAM ON DISCHARGE:
Vitals: afebrile, VSS, SBP 120s
General: Alert, oriented, no acute distress, obese habitus  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Bibasilar crackles 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, distended consistent with obesity, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Left leg > right  
Neuro:  Cn II-XII intact.

 
Pertinent Results:
ADMISSION LABS:
___ 02:20PM   ___ PTT-33.1 ___
___ 02:20PM   PLT COUNT-251
___ 02:20PM   NEUTS-61.0 ___ MONOS-6.1 EOS-1.3 
BASOS-0.6
___ 02:20PM   WBC-9.7 RBC-4.75 HGB-13.1 HCT-40.1 MCV-85 
MCH-27.7 MCHC-32.7 RDW-14.2
___ 02:20PM   ALBUMIN-4.0 CALCIUM-9.9 PHOSPHATE-4.8*# 
MAGNESIUM-1.7
___ 02:20PM   cTropnT-<0.01 proBNP-172
___ 02:20PM   LIPASE-20
___ 02:20PM   ALT(SGPT)-22 AST(SGOT)-24 ALK PHOS-106* TOT 
BILI-0.4
___ 02:20PM   estGFR-Using this
___ 02:20PM   GLUCOSE-134* UREA N-36* CREAT-1.2* SODIUM-137 
POTASSIUM-4.3 CHLORIDE-95* TOTAL CO2-28 ANION GAP-18
___ 02:38PM   LACTATE-2.4* K+-4.3
___ 02:49PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 02:49PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:49PM URINE  UHOLD-HOLD
___ 02:49PM URINE  HOURS-RANDOM

STUDIES:
LENIS ___
There is normal compressibility, flow and augmentation of the 
bilateral common femoral, proximal femoral, mid femoral, distal 
femoral and popliteal veins. Normal color flow is demonstrated 
in the posterior tibial veins bilaterally and right peroneal 
veins.  Left peroneal veins were not clearly visualized. There 
is normal respiratory variation of the common femoral veins 
bilaterally. 
IMPRESSION: 
Left peroneal veins not clearly visualized. Otherwise, no 
evidence of deep vein thrombosis in either lower extremity.   

CXR ___
IMPRESSION: 
No acute cardiopulmonary process. 
  
DISCHARGE LABS:
___ 08:05AM BLOOD WBC-6.6 RBC-4.46 Hgb-12.2 Hct-37.8 MCV-85 
MCH-27.4 MCHC-32.3 RDW-14.3 Plt ___
___ 08:05AM BLOOD ___ PTT-32.2 ___
___ 08:05AM BLOOD Glucose-302* UreaN-32* Creat-0.9 Na-136 
K-5.5* Cl-99 HCO3-27 AnGap-16
___ 03:30PM BLOOD Na-133 K-4.3 Cl-96
___ 08:05AM BLOOD ALT-23 AST-24 CK(CPK)-29 AlkPhos-102 
TotBili-0.4
___ 10:26PM BLOOD CK-MB-1 cTropnT-<0.01
___ 08:05AM BLOOD CK-MB-1 cTropnT-<0.01
___ 08:05AM BLOOD Calcium-9.5 Phos-3.9 Mg-1.8
___ 02:20PM BLOOD TSH-8.9*
___ 08:05AM BLOOD Cortsol-13.1
___ 10:38AM BLOOD Lactate-2.7*
 
Brief Hospital Course:
This is a ___ year old femal with PMHx of dilated cardiomyopathy, 
DM, ___, who presented on ___ from PCP with hypotension. 

#HYPOTENSION: Patient had recent admission for hypotension in 
the setting of hyperglycemia.  Patient's glucose on admission 
was 134 so unlikely cause.  Patient does have chronic diarrhea 
(and recent poor PO intake) which could be a contributing 
factor.  Patient is also on thyroid medications, which could 
contribute to her current state. Adrenal insufficiency could 
also contribute to hpotension. Patient had no new changes to her 
anti-hypertensives.  Her anti-hypertensives (carvedilol, 
spironolactone, torsemide, and lisinopril) were held.  Her blood 
pressure returned to normal (SBP 120s) and symptoms resolved on 
day of discharge. Orthostatic vital signs were checked and were 
normal on the day of discharge. An AM cortisol was checked (in 
setting of hypotension, hyperkalemia) and was normal at 13.1, 
making adrenal insufficiency unlikely. On discharge, her 
carvedilol and torsemide were restarted and lisinopril dose was 
decreased from 40 mg to 20 mg daily and spironolactone was held 
(given that patient's recent hypotension may be related to 
anti-hypertensives).

# ___: Upon presentation to the ED she had an elevation in 
creatinine to 1.2, pre-renal given the hypotension, chronic 
diarrhea and poor PO intake recently.  Her lisinopril and 
nephrotixic medications were held.  Medications were renally 
dosed.  She received 500 cc NS boluses prn.  Her Cr returned to 
baseline 0.9 on the day of discharge.  

#HYPERKALEMIA: Patient developed hyperkalemia to 5.5 (from 4.3) 
on HD2 which was most likely due to not receiving enough insulin 
since her home U500 had been stopped and a humalog sliding scale 
started on admission.  AM cortisol was checked and found to be 
normal at 13.1 making adrenal insufficiency unlikely.  An EKG 
was obtained and showed a LBBB in setting of tachycardia to ___ 
which patient has had in the past on stress test.  She received 
2 gm IV calcium gluconate in addition to her home dose of U500, 
kayexalate and a fluid bolus and her potassium return to normal 
(4.3) prior to discharge. 
  
# EKG changes: Patient had LBBB in setting of tachycardia on EKG 
___, has had similar LBBB with stress test in past (may be 
related to underlying cardiomyopathy). Patient also hyperkalemic 
at that time which could cause LBBB. CKMB and troponins were 
negative x3. Her hyperkalemia was treated as above.

# LACTATEMIA, without acidosis: No leukocytosis or fevers. 
Lactate elevation likely secondary to hypotension and 
dehydration.  Patient also on metformin which may contribute but 
no new changes to dosing. Patient's metformin was held and she 
received IVF 500 cc NS boluses for fluid resuscitation.

#DM Type II. Patient has poorly controlled sugars and recent 
admission for hyperglycemia. She is on U500 at home. HbA1c on 
___ was 8.3%. Patient's metformin was held and she was 
initially placed on a humalog ISS but her blood sugars remained 
elevated (>400).  A ___ consult was placed and she was 
restarted on her home dose of U500 insulin 250 units with meals. 
Her metformin was restarted and she was continued on her home 
dose of insulin on discharge.

CHRONIC ISSUES:  
# Chronic systolic heart failure, EF 45%: Non ischemic per 
report. No signs of decompensation. Patient was continued on 
ASA, rosuvastatin. Her carvedilol, lisinopril and torsemide were 
held in setting of hypotension. Carvedilol and torsemide were 
restarted at the same doses on discharge but lisinopril dose was 
decreased from 40 to 20 mg daily given recent hypotension.  

# h/o NASH: Also no evidence of decompensation on exam. 
Patient's Spironolactone and torsemide were held in setting of 
hypotension. Torsemide was restarted on discharge but 
spironolactone was held on discharge given recent hypotension. 
Restarting spironolactone should be discussed with patient 
depending on BP as an outpatient.

# Obstructive sleep apnea: Patient was continued on CPAP.

# Hypothyroidism: Patient was continued on home levothyroxine. A 
TSH was rechecked and found to be elevated at 8.9. Therefore, 
patient will likely require re-titration of levothyroxine dosing 
as an outpatient.  

# Chronic diarrhea: Patient was continued on home loperamide 
 

TRANSITIONAL ISSUES:
[ ] Please follow-up final urine and blood cultures from 
___
[ ] Please follow-up electrolytes (as patient had hyperkalemia 
to 5.5 on ___, which was likely related to not enough insulin)
[ ] Please recheck BP and consider restarting spironolactone and 
going back up to lisinopril 40 mg daily (from 20 mg daily) 
depending on BP. Patient's spironolactone was held and 
lisinopril dose was decreased from 40 to 20 mg daily on 
discharge given her hypotension.
[ ] Patient will require adjustment of levothyroxine dosing as 
an outpatient given TSH was measured and was found to be high at 
8.9 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Calcium Carbonate 500 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. U500 250 Units Breakfast
U500 250 Units Lunch
U500 250 Units Dinner
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: Pt is on U500, units are entered as regular insulin 
units

5. Ipratropium Bromide MDI 2 PUFF IH BID:PRN SOB or wheezing 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Loperamide 2 mg PO DAILY:PRN diarrhea 
9. Multivitamins 1 TAB PO DAILY 
10. Rosuvastatin Calcium 40 mg PO DAILY 
11. Spironolactone 50 mg PO DAILY 
12. Torsemide 20 mg PO DAILY 
13. Vitamin D 800 UNIT PO DAILY 
14. MetFORMIN XR (Glucophage XR) 2250 mg PO DAILY 
15. Insulin Pen Needle (insulin needles (disposable)) 32 gauge x 
___ (4mm Nano)  Miscellaneous as directed 
16. HumaLOG KwikPen (insulin lispro) 100 unit/mL Subcutaneous 
TID:PRN sliding scale 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Calcium Carbonate 500 mg PO DAILY 
3. U500 250 Units Breakfast
U500 250 Units Lunch
U500 250 Units DinnerMax Dose Override Reason: Pt is on U500, 
units are entered as regular insulin units
4. Ipratropium Bromide MDI 2 PUFF IH BID:PRN SOB or wheezing 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Loperamide 2 mg PO DAILY:PRN diarrhea 
7. Multivitamins 1 TAB PO DAILY 
8. Rosuvastatin Calcium 40 mg PO DAILY 
9. Vitamin D 800 UNIT PO DAILY 
10. Carvedilol 25 mg PO BID 
11. Lisinopril 20 mg PO DAILY 
12. HumaLOG KwikPen (insulin lispro) 100 unit/mL Subcutaneous 
TID:PRN sliding scale 
13. Insulin Pen Needle (insulin needles (disposable)) 32 gauge x 
___ (4mm Nano)  Miscellaneous as directed 
14. MetFORMIN XR (Glucophage XR) 2250 mg PO DAILY 
15. Torsemide 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hypotension
Secondary: ___ cirrhosis, CHF, HYPERTENSION, DM Type II
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at the ___ 
___.  You were admitted here for feeling 
dizzy and found to have a low blood pressure.  You were managed 
with intravenous fluids and your blood pressures came back up to 
normal.  Your left leg was more swollen than your right leg.  
You underwent an ultrasound of your leg to rule out any blood 
clot and this showed that there was no blood clot.  Please keep 
your follow up appointments below.

Changes were made to your blood pressure medication regimen. You 
will have close follow-up with your primary care doctor 
regarding your blood pressure and blood pressure medication. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

We wish you the very best,
Your ___ medical team
 
Followup Instructions:
___